US04536504
In 450 ml of pyridine-acetone (pyridine:acetone=2:1) were dissolved 131 g (0.5 mol) of ethyl 5-fluoro-6-acetoxy-1,2,3,4,5,6-hexahydro-2,4-dioxopyrimidine-5-carboxylate and 66.5 g (0.6 mol) of (Z)-furfuraldoxime, and the solution was stirred at 60° C. for 15 hours. The solvent was evaporated under reduced pressure, and the residual oily material was poured into 3 l of ice-cooled water, and crystals precipitated were collected by filtration. The crystals were washed with water (500 ml×2), dried under reduced pressure and recrystallized from ethanol and then from ethyl acetate-hexane (7:3) to yield 63.5 g of ethyl 5-fluoro-6-(Z)-furfurylideneaminooxy-1,2,3,4,5,6-hexahydro-2,4-dioxopyrimidine-5carboxylate. m.p. 152°-153° C.

reactant | ethyl 5-fluoro-6-acetoxy-1,2,3,4,5,6-hexahydro-2,4-dioxopyrimidine-5-carboxylate | 0.5 mol, 131 g | FC1(C(NC(NC1OC(C)=O)=O)=O)C(=O)OCC | C9H11FN2O6
reactant | (Z)-furfuraldoxime | 0.6 mol, 66.5 g | C(/C1=CC=CO1)=N/O | C5H5NO2
solvent | pyridine acetone | 450 ml | N1=CC=CC=C1.CC(=O)C
product | ethyl 5-fluoro-6-(Z)-furfurylideneaminooxy-1,2,3,4,5,6-hexahydro-2,4-dioxopyrimidine-5carboxylate | 63.5 g | FC1(C(NC(NC1O\N=C/C1=CC=CO1)=O)=O)C(=O)OCC | C12H12FN3O6
